US07531547B2
To a suspension of 4-Isopropyl-3,5-dimethoxy-phenylamine (1.28 g, 6.56 mmol) in 15% hydrochloric acid (20 mL) at 0° C. was added sodium nitrite (0.54 g, 7.87 mmol-dissolved in 4 mL water) dropwise. After stirring 20 minutes, potassium iodide (1.09 g, 6.56 mmol-dissolved in 4 mL water) was added slowly at 0° C. After stirring at room temperature for 18 hours, the reaction mixture was partitioned between ether and 10% aqueous sodium bisulfite solution. The ether layer was washed with water, dried using anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. Purification of the residue by silica gel column chromatography eluting with hexane yielded 5-Iodo-2-isopropyl-1,3-dimethoxy-benzene (807 mg, 40%) as a white solid, MS (M+H)=307.

reactant | 4-Isopropyl-3,5-dimethoxy-phenylamine | 6.56 mmol, 1.28 g | C(C)(C)C1=C(C=C(C=C1OC)N)OC | C11H17NO2
reactant | sodium nitrite | 7.87 mmol, 4 mL, 0.54 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 6.56 mmol, 4 mL, 1.09 g | [I-].[K+]
solvent | hydrochloric acid | 20 mL | Cl | ClH
product | 5-Iodo-2-isopropyl-1,3-dimethoxy-benzene | 807 mg, 40% | IC=1C=C(C(=C(C1)OC)C(C)C)OC | C11H15IO2
